US07745450B2
methyl 5-isopropyl-4-nitropyrazol-3-carboxylate (VI)
5-Isopropyl-4-nitropyrazole-3-carboxylic acid was added to a 4.5M solution of HCl in absolute methanol. The reaction mixture was heated at 60° C. for 7 hours. The title compound was crystallized from ethyl acetate; yield 91%; mp=78-80° C. 1H NMR (300 MHz, CDCl3): 1.39 d (6H, J=7.1 Hz); 3.64 sept (1H, J=7.1 Hz), 3.98 s (3H). CHN required: C=45.07%; H=5.20%; N=19.70%; found: C=45.21%; H=5.23%; N=19.65%.

reactant | 5-Isopropyl-4-nitropyrazole-3-carboxylic acid | C(C)(C)C1=C(C(=NN1)C(=O)O)[N+](=O)[O-] | C7H9N3O4
reactant | HCl | Cl | ClH
reactant | methanol | CO | CH4O
product | methyl 5-isopropyl-4-nitropyrazol-3-carboxylate | yield 91% | C(C)(C)C1=C(C(=NN1)C(=O)OC)[N+](=O)[O-] | C8H11N3O4
